US07244843B2
To N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-1-methyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (364 mg, 0.98 mmol) was added concentrated aqueous hydrogen chloride (5 mL). The resulting mixture was stirred for five minutes and then concentrated. The resulting residue was treated with concentrated aqueous sulfuric acid (2.0 mL) and N-bromosuccinimide (193 mg, 1.1 mmol). The resulting brown solution was degassed (vacuum then argon), covered with aluminum foil and stirred in the dark for 24 h. The reaction was then diluted with ice water and basified with saturated aqueous sodium bicarbonate. The resulting mixture was diluted with ethyl acetate (15 mL) and treated with di-tert-butyl dicarbonate (excess). After 1 hr, the reaction was washed with ethyl acetate (3×50 mL), and the combined organic layers were dried over sodium sulfate, filtered, and concentrated. The resulting residue was purified by flash column chromatography (SiO2, 0–30% ethyl acetate in hexanes) to afford N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-9-bromo-1-methyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (261 mg, 59%) as a white foam-like solid. MS (ESI) 449, 451 (M+H).

reactant | N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-1-methyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.98 mmol, 364 mg | C(C)(C)(C)OC(=O)N1C(C2N(C(C3=C(C=CC=C23)C(F)(F)F)=O)CC1)C | C18H21F3N2O3
reactant | hydrogen chloride | 5 mL | Cl | ClH
reactant | sulfuric acid | 2.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | N-bromosuccinimide | 1.1 mmol, 193 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
product | N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-9-bromo-1-methyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 261 mg, 59% | C(C)(C)(C)OC(=O)N1C(C2N(C(C3=C(C=C(C=C23)Br)C(F)(F)F)=O)CC1)C | C18H20BrF3N2O3
